* C:\Users\llag396\Downloads\310TEAM11\Lanna\alternative_rx.asc
I1 N005 N003 PULSE(0 100n 1n 0 0 20u 0.1m)
D1 N003 N005 D
C1 N003 N005 4p
R1 N003 N005 10Meg
V1 N005 0 5V
R2 N003 0 100k
XU1 N003 N001 5V 0 Vsns1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 Vsns1 N001 90k
R4 N001 0 10k
C2 Vfilter Vsns1 530n
R5 Vfilter 2V5 10k
XU2 Vfilter N006 5V 0 Vsns2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N006 2V5 10k
R7 Vsns2 N006 90k
V3 5V 0 5V
R8 5V N009 10Meg
R9 N009 0 10Meg
C3 N009 0 4p
XU3 N009 N007 5V 0 N008 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C4 N008 N007 100n
R10 2V5 N008 50
R11 2V5 N007 10k
C5 2V5 0 1µ
XU4 0 N002 PWM 5V N004 Vt Vt 5V NE555
C6 N004 0 100n
D2 N002 5V BAT54
R12 5V N002 1k
C7 N002 Vsns2 3n
R13 5V Vt 5k
C8 Vt 0 2.7n
.model D D
.lib C:\Users\llag396\AppData\Local\LTspice\lib\cmp\standard.dio
* Load Resistor
.tran 0 1m 0 10n
* Model of Photodiode
* Reverse Bias
* Gain: about 10x\nWe might have to change this
* High Pass Filter\n(WIP)
* We can offset by changing GND\nto 2.5V here
.lib NE555.sub
.lib UniversalOpAmp1.lib
.backanno
.end
